US05436354
(E)-N-(6-Methoxy-6-methyl-2-hepten-4-ynyl)ethylamine hydrochloride
To a solution of 232.4 ml (4.1 moi) of 70% ethylamin aqueous solution in 386 ml of tetrahydrofuran was added 43.4 ml (0.47 mol) of 1,3-dichioropropene (E/Z =9/1) under ice cooling. The solution was stirred for 2 hours at the same temperature and for one hour at room temperature. Then, 4.65 g (24.4 mmol) of copper (I) iodide, 1.74 g (9.8 mmol) of palladium chloride, 4.83 g (18.4 mmol) of triphenylphosphine and 20.0 g (0.204 mol) of 3-methoxy-3-methyl-t-butyne were added therein under ice cooling and the mixture was stirred at 30°-40° C. for 10 hours. The solvent was distilled off under reduced pressure and the residue was extracted with 300 ml of ethyl acetate. The organic layer was washed with 100 ml of saturated sodium chloride aqueous solution and 100 ml of 10% sodium carbonate aqueous solution, and then dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure and the residue was distilled under reduced pressure to obtain 47 g of slightly yellow oil at 95° C./4 mmHg. The oil was dissolved in 100 ml of dichloromethane and 94 ml of 23% hydrogen chloride methanol solution was added thereto to acidify, and then the solvent was distilled off under reduced pressure. Precipitated crystals were suspended in ether, collected by filtration, washed with ether and then dried under reduced pressure to obtain 24.4 g (yield: 55%) of the above identified compound as slight purple crystalline powder.

reactant | ethylamin | 232.4 ml | C(C)N | C2H7N
reactant | 1,3-dichioropropene | 0.47 mol, 43.4 ml | ClC=CCCl | C3H4Cl2
reactant | triphenylphosphine | 18.4 mmol, 4.83 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrogen chloride methanol | 94 ml | CO.Cl
reactant | tetrahydrofuran | 386 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | copper (I) iodide | 24.4 mmol, 4.65 g | [Cu]I
catalyst | palladium chloride | 9.8 mmol, 1.74 g | [Pd](Cl)Cl
product | (E)-N-(6-Methoxy-6-methyl-2-hepten-4-ynyl)ethylamine hydrochloride | yield: 55% | Cl.COC(C#C/C=C/CNCC)(C)C | InChI=1S/C11H19NO.ClH/c1-5-12-10-8-6-7-9-11(2,3)13-4;/h6,8,12H,5,10H2,1-4H3;1H/b8-6+;
